US06518264B2
0.020 g of sodium borohydride is added to a solution of 0.50 g of (RS)-1-{(4-chlorophenyl)-(4-formylphenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine in 15 cm3 of methanol at 0° C. After 1 hour at 0° C., 40 cm3 of water are added and the product extracted with 100 cm3 of dichloromethane. The organic phase is washed twice with 40 cm3 of water and then 40 cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3.2 cm, height 14 cm), at an argon pressure of 0.5 bar with a mixture of ethyl acetate and cyclohexane (30/70 by volume) and collecting 20 cm3 fractions. Fractions 20 to 25 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.29 g of (RS)-1-{(4-chlorophenyl)[4-(hydroxymethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine is obtained in the form of a white foam [NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz): 3.02 (3H, s, SCH3), 3.90 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.42 (2H, d, J=5 Hz, OCH2), 4.75 (1H, s, NCH), 5.10 (1H, t, J=5 Hz, OH), between 7.10 and 7.50 (11H, m, 11CH arom.)].

reactant | sodium borohydride | 0.020 g | [BH4-].[Na+]
reactant | (RS)-1-{(4-chlorophenyl)-(4-formylphenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.50 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)C=O | C25H20ClF2NO3S
reactant | water | 40 cm3 | O | H2O
solvent | methanol | 15 cm3 | CO | CH4O
product | (RS)-1-{(4-chlorophenyl)[4-(hydroxymethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.29 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)CO | C25H22ClF2NO3S
